US07635715B2
Step E: Preparation of Ethyl 8-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate
A flask containing H2SO4 (12 mL, 219 mmol) and P2O5 (12 g, 88 mmol) was cooled in an ice-water bath for 20 minutes. To this viscous mixture was slowly added diethyl 2-(2-(2-fluorophenyl)-2-methylpropanoyl)malonate (7.1 g, 22 mmol). The ice bath was removed, and the mixture was stirred at room temperature for 1 hour before being poured over crushed ice and diluted with IPAc (100 mL). Water (50 mL) was added, and the resulting mixture was extracted with EtOAc (2×100 mL). The organic layers were combined, dried over Na2SO4, filtered, and concentrated in vacuo to afford a yellow oil that was further purified using flash chromatography (10% EtOAc/hexane, 2.5 g). MS (m/z)=279 (M+H)+.

reactant | H2SO4 | 219 mmol, 12 mL | OS(=O)(=O)O | H2O4S
reactant | P2O5 | 88 mmol, 12 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | diethyl 2-(2-(2-fluorophenyl)-2-methylpropanoyl)malonate | 22 mmol, 7.1 g | FC1=C(C=CC=C1)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H21FO5
product | Ethyl 8-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | FC=1C=CC=C2C(=C(C(C(C12)(C)C)=O)C(=O)OCC)O | C15H15FO4
